US06887871B2
b) [(3R)-3-Hydroxy-3-(2-thiazolyl)propyl]carbamic acid 1,1-dimethylethyl ester
To a solution of (S)-3-methyl-CBS-oxazaborolidine (1M solution in toluene, 0.43 ml) in dry tetrahydrofuran (30 ml) at −10° C. under nitrogen, was added borane-tetrahydrofuran complex (1M in tetrahydrofuran, 2.58 ml) and stirred at −10° C. for 15 minutes. A solution of [3-oxo-3-(2-thiazolyl)propyl]carbamic acid 1,1-dimethylethyl ester (1.1 g, 4.3 mmol) in dry tetrahydrofuran (20 ml) was added dropwise over 45 minutes and the resulting mixture was allowed to warm up to room temperature over 16 h. Methanol (10 ml) was added and the mixture was stirred at room temperature for 15 minutes before the solvent was removed at reduced pressure. Methanol (10 ml) was again added and removed at reduced pressure to leave a crude yellow oil. Flash chromatography (silica, 25 to 100% ethyl acetate in isohexane) gave 0.75 g of a clear gum (67%).

reactant | borane tetrahydrofuran | 1M, 2.58 ml | B.O1CCCC1
reactant | [3-oxo-3-(2-thiazolyl)propyl]carbamic acid 1,1-dimethylethyl ester | 4.3 mmol, 1.1 g | CC(C)(C)OC(NCCC(C=1SC=CN1)=O)=O | C11H16N2O3S
reactant | Methanol | 10 ml | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | isohexane | CCCC(C)C | C6H14
product | [(3R)-3-Hydroxy-3-(2-thiazolyl)propyl]carbamic acid 1,1-dimethylethyl ester | 0.75 g, 67% | CC(C)(C)OC(NCC[C@H](C=1SC=CN1)O)=O | C11H18N2O3S
